US06350771B1
A mixture of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime (1.38 g), 30% hydrogen peroxide (1.38 ml) sodium tungstate dihydrate (0.17 g) in methanol/acetic acid was stirred at 20° C. overnight, then at 50° C. for 4 hours, and again at 20° C. overnight. Water was added and the solid filtered, water-washed and dried to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfonyl-1H-pyrazole-3-carboxaldehyde oxime (0.93 g) m.p. 209.5-211° C. (decomposition). Compound 16.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | 1.38 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)C | C12H9Cl2F3N4O2S
reactant | hydrogen peroxide | 1.38 ml, 0.17 g | OO | H2O2
reactant | Water | O | H2O
solvent | methanol acetic acid | CO.C(C)(=O)O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfonyl-1H-pyrazole-3-carboxaldehyde oxime | 0.93 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)(=O)C | C12H9Cl2F3N4O3S
